US05158943
A solution of sodium nitrite (27.7 g) in water (40.0 ml) was added dropwise to a mixture of 3,4-methylenedioxyaniline (50 g), aq. HBr (47%, 125 ml) and acetone (500 ml) at 0°-5° C., followed by stirring for 20 minutes at 5° C. To the solution was added methyl acrylate (197 ml). The resultant solution was warmed to 32° C. to which cuprous oxide (Cu2O) (0.5 g) was added in small portions with vigorous stirring. The mixture generates nitrogen gas due to exothermic reaction. After completing the generation of nitrogen gas, the reaction mixture was further stirred for an hour and concentrated under reduced pressure. Water was poured into the reaction mixture and the mixture was extracted with ether. The ethereal layer was washed with H2O, dried (MgSO4) and distilled off under reduced pressure to give methyl 2-bromo-3-(3,4methylenedioxyphenyl)propionate (56.2 g, 54%).

reactant | sodium nitrite | 27.7 g | N(=O)[O-].[Na+]
reactant | 3,4-methylenedioxyaniline | 50 g | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | HBr | 125 ml | Br | BrH
reactant | methyl acrylate | 197 ml | C(C=C)(=O)OC | C4H6O2
solvent | water | 40.0 ml | O | H2O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | methyl 2-bromo-3-(3,4methylenedioxyphenyl)propionate | 56.2 g, 54% | BrC(C(=O)OC)CC1=CC2=C(C=C1)OCO2 | C11H11BrO4
